US06927222B2
A) (S*R*)-1-(3,4-Dichloro-benzyl)-2,5-dimethyl-piperazine
A solution of 1,2-dichloro-4-chloromethyl-benzene (1.1 ml 7.89 mmol) in DMF (5 ml) was added to 2,5-dimethyl-piperazine (1.0 g, 8.77 mmol) dissolved in DMF (25 ml). The reaction was stirred over night, poured into a mixture of EtOAc and sodium carbonate (5%). The water phase was washed twice with EtOAc and the combined organic phase once with brine, and dried over sodium sulfate. After evaporation the crude was dissolved in methanol. The dibensylated piperazine does not dissolve. The filtrate was filtered through a short silica column, using methanol as eluant and evaporated to give the pure product. Yield 812 mg, 38%

reactant | 1,2-dichloro-4-chloromethyl-benzene | 7.89 mmol, 1.1 ml | ClC1=C(C=C(C=C1)CCl)Cl | C7H5Cl3
reactant | 2,5-dimethyl-piperazine | 8.77 mmol, 1.0 g | CC1NCC(NC1)C | C6H14N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(3,4-Dichloro-benzyl)-2,5-dimethyl-piperazine | ClC=1C=C(CN2C(CNC(C2)C)C)C=CC1Cl | C13H18Cl2N2
